US08440666B2
4-Chloro-2-{(2S)-2-hydroxy-3-[(pyridin-4-ylmethyl)amino]propyl}-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one
4-Chloro-2-[(2R)-oxiran-2-ylmethyl]-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one (0.141 mmol) in ethanol (2 mL) was stirred with 1-(pyridin-4-yl)methanamine (17 μL, 0.17 mmol) at 80° C. for 8 hours. After cooling, the reaction solution was concentrated, mixed with water and extracted with ethyl acetate, and the extract was evaporated under reduced pressure. The residue was purified by preparative thin layer chromatography (chloroform/methanol=9/1) to give the desired product (19 mg, 29% yield).

reactant | 4-Chloro-2-[(2R)-oxiran-2-ylmethyl]-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 0.141 mmol | ClC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)C[C@H]2OC2)=O | C17H24ClN3O2
reactant | 1-(pyridin-4-yl)methanamine | 0.17 mmol, 17 μL | N1=CC=C(C=C1)CN | C6H8N2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-Chloro-2-{(2S)-2-hydroxy-3-[(pyridin-4-ylmethyl)amino]propyl}-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 19 mg, 29% yield | ClC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)C[C@H](CNCC2=CC=NC=C2)O)=O | C23H32ClN5O2
